US09227967B2
3-(Oxan-4-yl)-1H-pyrrolo[2,3-c]pyridine
4-Chloro-3-aminopyridine (200 mg, 1.56 mmol) was dissolved in DMA (4 mL) and Pd2(dba)3 (71.2 mg, 0.08 mmol), X-Phos (74.2 mg, 0.16 mmol), potassium acetate (458 mg, 4.67 mmol) and (tetrahydro-pyran-4-yl)-acetaldehyde (598 mg, 4.67 mmol) were added under nitrogen. The reaction mixture was heated at 120° C. overnight, cooled to r.t. and partitioned between water (100 mL) and DCM (100 mL). The aqueous fraction was concentrated in vacuo and the residue was dissolved in DCM (100 mL), dried (MgSO4) and concentrated in vacuo to give the crude title compound as an orange/brown solid (314 mg, 99.8%). LCMS (ES+): 203.1 (M+H)+.

reactant | 4-Chloro-3-aminopyridine | 1.56 mmol, 200 mg | ClC1=C(C=NC=C1)N | C5H5ClN2
reactant | X-Phos | 0.16 mmol, 74.2 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | potassium acetate | 4.67 mmol, 458 mg | C(C)(=O)[O-].[K+]
reactant | (tetrahydro-pyran-4-yl)-acetaldehyde | 4.67 mmol, 598 mg | O1CCC(CC1)CC=O | C7H12O2
solvent | DMA | 4 mL | CC(=O)N(C)C | C4H9NO
catalyst | Pd2(dba)3 | 0.08 mmol, 71.2 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-(Oxan-4-yl)-1H-pyrrolo[2,3-c]pyridine | 314 mg, 99.8% | O1CCC(CC1)C1=CNC2=CN=CC=C21 | C12H14N2O
